US05840732
Synthesis of 3-[5-(imidazo[1,2-a]pyridin-5-yl)pentyl]-oxazolidine-2,4-dione
To a solution of 15.59 g (70 mmol) of 5-(5-chloropentyl)imidazo[1,2-a]pyridine and 9.74 g (70 mmol) of oxazolidine-2,4-dione potassium salt in 300 ml of N,N-dimethylformamide, 10.49 g (70 mmol) of sodium iodide was added, followed by stirring at 80° C. for 16 hours. After cooling, the reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate→ethyl acetate/ethanol=10/1) to yield 11.90 g (59.2%, light orange crystal) of the desired product.

reactant | 5-(5-chloropentyl)imidazo[1,2-a]pyridine | 70 mmol, 15.59 g | ClCCCCCC1=CC=CC=2N1C=CN2 | C12H15ClN2
reactant | oxazolidine-2,4-dione potassium salt | 70 mmol, 9.74 g | [K].O1C(NC(C1)=O)=O
reactant | sodium iodide | 70 mmol, 10.49 g | [I-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 3-[5-(imidazo[1,2-a]pyridin-5-yl)pentyl]-oxazolidine-2,4-dione | N=1C=CN2C1C=CC=C2CCCCCN2C(OCC2=O)=O | C15H17N3O3
